US07449467B2
Methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-ethylcyclopent-2-ene-1-carboxylate
To a 1.00 M soluition of lithium hexamethyldisilazide in tetrahydrofuran (61.5 mL, 61.5 mmol) was added a solution of methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate (6.71 g, 27.8 mmol) in tetrahydrofuran (10.0 mL) at −78° C. over 10 min. The resulted light brown solution was stirred at −78° C. for 30 min before iodoethane (2.67 mL, 33.4 mmol) was added in one portion. The mixture was then kept at −25° C. overnight. The reaction was quenched with aqueous NH4Cl. The organic layer was separated and the aqueous layer was further extracted with ether three times. The combined organic layers were then washed with brine, dried over Na2SO4, filtered, concentrated and purified by flash column chromatography to yield the desired product as a 7:1 cis/trans mixture (4.83 g, 65%). MS calculated for C14H23NO4: (M+H) 170.2; found 170.1 (M+H-Boc).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate | 27.8 mmol, 6.71 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](C1)C(=O)OC | C12H19NO4
reactant | iodoethane | 33.4 mmol, 2.67 mL | ICC | C2H5I
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 61.5 mmol, 61.5 mL | O1CCCC1 | C4H8O
product | Methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-ethylcyclopent-2-ene-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)CC | C14H23NO4
